US06376701B1
In this example, procedure of transestrification of methyl acetoacetate with 1-phenyl ethanol is described. A mixture of 1 equivalent of methyl acetoacetate, 1 equivalent of 1-phenyl ethanol and 100 mg of sulfated tin oxide catalyst in 20 ml of toluene was heated to 110° C. in a two necked round bottom flask provided with a distillation condenser to remove methanol. The reaction was monitored by thin layer chromatography (TLC). After completion of the reaction (about 6 hours), the catalyst was filtered and the filtrate was concentrated and chromatographed on a silica gel column (95% petroleum ether and 5% ethyl acetate) to afford 1-phenylethyl acetoacetate as a viscous colorless liquid in 97% yield.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 1-phenyl ethanol | C1(=CC=CC=C1)C(C)O | C8H10O
reactant | methyl acetoacetate | 1 equivalent | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 1-phenyl ethanol | 1 equivalent | C1(=CC=CC=C1)C(C)O | C8H10O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenylethyl acetoacetate | 97% yield | C(CC(=O)C)(=O)OC(C)C1=CC=CC=C1 | C12H14O3
